US07053105B2
A mixture of 4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(5-mercapto-4-methyl-4H-1,2,4-triazol-3-yl)-2-methyl-6-quinolinemethanol (0.0020 mol), obtained in Example B14a, in THF (5 ml) was added dropwise at 5° C. to a mixture of sodium nitrite (0.0020 mol) in nitric acid (2 ml) and water (2 ml). The mixture was stirred at 5° C. for 5 minutes, poured out into potassium carbonate 10% and extracted with EtOAc. The organic layer was separated, dried (MgSO4), filtered, and the solvent was evaporated. The residue was purified by column chromatography over kromasil 10 μm (eluent: CH2Cl2/CH3OH; 90/10). The pure fractions were collected and the solvent was evaporated. The residue was crystallized from CH3CN. The precipitate was filtered off and dried, yielding 0.5 g (53%) of 4-(3-chlorophenyl)-α-(4-chlorophenyl)-2-methyl-α-(4-methyl-4H-1,2,4-triazol-3-yl)-6-quinolinemethanol monohydrate, mp. 150° C.

reactant | 4-(3-chlorophenyl)-α-(4-chlorophenyl)-α-(5-mercapto-4-methyl-4H-1,2,4-triazol-3-yl)-2-methyl-6-quinolinemethanol | 0.0020 mol | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C1=NN=C(N1C)S)C1=CC=C(C=C1)Cl)C | C26H20Cl2N4OS
reactant | sodium nitrite | 0.0020 mol | N(=O)[O-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | nitric acid | 2 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 2 ml | O | H2O
product | 4-(3-chlorophenyl)-α-(4-chlorophenyl)-2-methyl-α-(4-methyl-4H-1,2,4-triazol-3-yl)-6-quinolinemethanol monohydrate | 0.5 g, 53% | O.ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C1=NN=CN1C)C1=CC=C(C=C1)Cl)C | InChI=1S/C26H20Cl2N4O.H2O/c1-16-12-22(17-4-3-5-21(28)13-17)23-14-19(8-11-24(23)30-16)26(33,25-31-29-15-32(25)2)18-6-9-20(27)10-7-18;/h3-15,33H,1-2H3;1H2
